US04242510
4-Nitrobenzyl 7-[2-(2,3-dihydro-1,4-dithiin-5yl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 5.0 g.), tetrahydrofuran (50 ml.), methanol (30 ml.), 10% palladium-carbon (2 g.), water (7 ml.) and acetic acid (0.7 ml.) were treated in a similar manner to that of Example 19-(2) to give 7-[2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 1.6 g.).

reactant | 4-Nitrobenzyl 7-[2-(2,3-dihydro-1,4-dithiin-5yl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 5.0 g | S1CCSC(=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H19ClN4O7S3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | methanol | 30 ml | CO | CH4O
reactant | water | 7 ml | O | H2O
catalyst | palladium-carbon | 2 g | [C].[Pd]
solvent | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
product | 7-[2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid | 1.6 g | S1CCSC(=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOC | C14H14ClN3O5S3
